US04386073
3.8 g (8 mmoles) of BOC-Gln-Nva-Met-NH2 are dissolved in 100 ml of a 98% formic acid, the solution is allowed to stand at room temperature for 2 hours, and then evaporated in vacuo. The oily residue is dissolved in 50 ml of acetic acid, the solution is boiled for 2 minutes, and then evaporated in vacuo. The gelly residue is triturated with ether to obtain 2.8 g (98%) of Glp-Nva-Met-NH2 ; m.p.: 249°-250° C. (decomposition), Rf5 =0.58, [α]D25 =-48.4° (c=1%, in acetic acid).

reactant | BOC-Gln-Nva-Met-NH2 | 8 mmoles, 3.8 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C20H37N5O6S
solvent | formic acid | C(=O)O | CH2O2
product | Glp-Nva-Met-NH2 | 2.8 g, 98% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CCSC)C(=O)N | C15H26N4O4S
